US07432258B2
3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid, (1.63 g, 8.4 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.49 g, 7.8 mmol), 1-hydroxybenzotriazole hydrate (1.05 g, 7.8 mmol), and 4-dimethylaminopyridine (0.43 g, 3.5 mmol), were dissolved in 40 mL of anhydrous dichloromethane under argon. Triethylamine (4.0 mL, 29 mmol) was added to the room temperature mixture via syringe. Absolute ethanol (0.83 mL, 14.2 mmol) was then delivered to the solution, which was maintained at room temperature for 18 hours. HPLC (Eclipse XDB-C18, 4.6×250 mm, 5 micron, 1-99% CH3CN/H2O with 0.1% trifluoroacetic acid) chromatogram indicated that all of the starting material (Rt=3.7 min) was gone and that a single new product had formed (Rt=5.5 min). The solvent was removed by rotary evaporation and the residue was dissolved in 200 mL of ethyl acetate. The organic layer was washed with water (3×50 mL), 10% hydrochloric acid solution (3×50 mL), and 50% sodium bicarbonate solution (3×50 mL). The organic phase was dried over Na2SO4, filtered and concentrated to give ethyl 3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate (1.6 g, 7.2 mmol, 86%) as a yellow solid. MS (ES) m/e 221 [M+H]+.

reactant | 3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid | 8.4 mmol, 1.63 g | O=C1COC2=C(N1)C=C(C=C2)C(=O)O | C9H7NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 7.8 mmol, 1.49 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 7.8 mmol, 1.05 g | O.ON1N=NC2=C1C=CC=C2
reactant | Triethylamine | 29 mmol, 4.0 mL | C(C)N(CC)CC | C6H15N
reactant | ethanol | 14.2 mmol, 0.83 mL | C(C)O | C2H6O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
catalyst | 4-dimethylaminopyridine | 3.5 mmol, 0.43 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | CH3CN H2O | CC#N.O
product | ethyl 3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | 7.2 mmol, 1.6 g, 86% | O=C1COC2=C(N1)C=C(C=C2)C(=O)OCC | C11H11NO4
